US06441017B1
Step C: 6-tert-Butyldiphenylsilyloxy-1-indanyl Azide
To a solution of 6-tert-butyldiphenylsilyloxy-1-indanol, as described above in Step B, (5.80 g, 14.9 mmol) and diphenylphosphoryl azide (4.98 g, 18.1 mmol) in toluene (30 mL) at 0° C. was added 1,8-diazabicyclo[5.4.0]undec-7-ene (2.50 mL, 16.4 mmol), dropwise. The mixture was allowed to slowly warm to ambient temperature and was stirred for 18 hours, then washed with H2O (10 mL), then dilute HCl (10 mL), then dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with hexane—1% EtOAc, to yield the titled product.

reactant | 6-tert-butyldiphenylsilyloxy-1-indanol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2CCC(C2=C1)O | C25H28O2Si
reactant | diphenylphosphoryl azide | 18.1 mmol, 4.98 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 16.4 mmol, 2.50 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 6-tert-Butyldiphenylsilyloxy-1-indanyl Azide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2CCC(C2=C1)N=[N+]=[N-] | C25H27N3OSi
